US05409805
In the same manner as in Procedure (1) of Example 1 1900 g of ferric 1,3-propanediaminetetraacetic acid ammonium salt monohydrate, 95.0 g of 1,3-propanediaminetetraacetic acid, 860.0 g of potassium bromide, 960 g of succinic acid and 420 g of disodium succinate hexahydrate were pulverized, and 30.0 g of Demol MS (produced by Kao Co., Ltd.) and 15.0 g of mannitol were added thereto and mixed, and the resulting mixture was granulated by adding 90 ml of water thereto. Thereafter, the granules were dried at 60° C. for 120 minutes to completely remove the moisture.

reactant | potassium bromide | 860.0 g | [Br-].[K+]
reactant | succinic acid | 960 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | disodium succinate hexahydrate | 420 g | O.O.O.O.O.O.C(CCC(=O)[O-])(=O)[O-].[Na+].[Na+]
product | mannitol | 15.0 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
